US04785107
[2-(3,5-di-tert-Butyl-4-hydroxyphenylpropionamido)-ethylamino]-trichloroisonicotinonitrile
24.2 g of tetrachloroisonicotinonitrile and 32 g of 3,5-di-tert-butyl-4-hydroxyphenylpropionic acid 2-aminoethylamide are reacted with 11 g of triethylamine in 0.2 l of N-methylpyrrolidone in the manner described in Example 2. The toluene extract is evaporated down, and the residue is recrystallized from a 4:1 mixture of cyclohexane and toluene with the addition of active carbon. The product has a melting point of 150°-160° C.

reactant | tetrachloroisonicotinonitrile | 24.2 g | ClC1=C(N=C(C(=C1C#N)Cl)Cl)Cl | C6Cl4N2
reactant | 3,5-di-tert-butyl-4-hydroxyphenylpropionic acid 2-aminoethylamide | 32 g | NCCNC(C(C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C19H32N2O2
reactant | triethylamine | 11 g | C(C)N(CC)CC | C6H15N
reactant | N-methylpyrrolidone | 0.2 l | CN1C(CCC1)=O | C5H9NO
product | [2-(3,5-di-tert-Butyl-4-hydroxyphenylpropionamido)-ethylamino]-trichloroisonicotinonitrile | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCNC1=C(N=C(C(=C1C#N)Cl)Cl)Cl | C25H31Cl3N4O2
